US06589984B1
A solution of tributylphosphine in 2 N THF (0.94 ml) and a solution of TMAD (323 mg) in CH2Cl2 (3 ml) were added dropwise to a solution of 4-acetyloxy-3,5-dimethyl-6-(5-hydroxybenzofuran-2-yl)-2H-pyran-2-one (118 mg) and 5-hydroxymethylpyrimidine (202 mg) in THF (30 ml) at 0° C., and the mixture was stirred at room temperature overnight. The reaction solution was cooled on ice, a 1 N lithium hydroxide aqueous solution (5 ml) was added and the mixture was stirred at room temperature for one hour, after which the reaction solution was again cooled on ice, a 1 N hydrochloric acid aqueous solution (5 ml) and AcOEt were added, the organic layer and aqueous layer were separated, and the aqueous layer was further extracted with AcOEt. The organic layers were combined and dried with MgSO4, and then filtered and concentrated. The residue was purified by silica gel column chromatography (AcOEt/MeOH=10/1) to obtain 3,5-dimethyl-4-hydroxy-6-(5-(5-pyrimidinylmethoxy)benzofuran-2-yl)-2H-pyran-2-one.

reactant | tributylphosphine | C(CCC)P(CCCC)CCCC | C12H27P
reactant | TMAD | 323 mg | CN(C)C(=O)/N=N/C(=O)N(C)C | C6H12N4O2
reactant | 4-acetyloxy-3,5-dimethyl-6-(5-hydroxybenzofuran-2-yl)-2H-pyran-2-one | 118 mg | C(C)(=O)OC1=C(C(OC(=C1C)C=1OC2=C(C1)C=C(C=C2)O)=O)C | C17H14O6
reactant | 5-hydroxymethylpyrimidine | 202 mg | OCC=1C=NC=NC1 | C5H6N2O
reactant | lithium hydroxide | 1 N, 5 ml | [OH-].[Li+]
reactant | hydrochloric acid | 1 N, 5 ml | Cl | ClH
solvent | THF | 2 N, 0.94 ml | C1CCOC1 | C4H8O
solvent | CH2Cl2 | 3 ml | C(Cl)Cl | CH2Cl2
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | AcOEt | CCOC(=O)C | C4H8O2
product | 3,5-dimethyl-4-hydroxy-6-(5-(5-pyrimidinylmethoxy)benzofuran-2-yl)-2H-pyran-2-one | CC=1C(OC(=C(C1O)C)C=1OC2=C(C1)C=C(C=C2)OCC=2C=NC=NC2)=O | C20H16N2O5
